### PR TITLE
[Merged by Bors] - feat port: Algebra.EuclideanDomain.Basic

### PR DESCRIPTION
**Pull request by ChrisHughes24**
655994e298904d7e5bbd1e18c95defd7b543eb94

I also added some #align in Logic.Basic and added the theorem `by_cases` which is aligned to `classical.by_cases` in Lean3

There is one very ugly proof of `xgcdAux_P` because I wasn't sure how best to prove a statement like `∀ {x : α}, p x` when I don't want to introduce the variable `x`

### CODE REVIEW

File: Mathlib/Algebra/EuclideanDomain/Basic.lean [hunk 1]
```diff
@@ -0,0 +1,357 @@
...
+#align euclidean_domain.dvd_div_of_mul_dvd EuclideanDomain.dvd_div_of_mul_dvd
+
+section Gcd
+
+variable [DecidableEq R]
+
+@[simp]
+theorem gcd_zero_right (a : R) : gcd a 0 = a := by
+  rw [gcd]
+  split_ifs <;> simp only [h, zero_mod, gcd_zero_left]
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/EuclideanDomain/Basic.lean:137]:
```suggestion
  split_ifs with h <;> simp only [h, zero_mod, gcd_zero_left]
```

File: Mathlib/Algebra/EuclideanDomain/Basic.lean [hunk 2]
```diff
@@ -0,0 +1,357 @@
...
+#align euclidean_domain.gcd_zero_right EuclideanDomain.gcd_zero_right
+
+theorem gcd_val (a b : R) : gcd a b = gcd (b % a) a := by
+  rw [gcd]
+  split_ifs <;> [simp only [h, mod_zero, gcd_zero_right], rfl]
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/EuclideanDomain/Basic.lean:142]:
```suggestion
  split_ifs with h <;> [simp only [h, mod_zero, gcd_zero_right], rfl]
```

**Comment by semorrison** [comment]
bors merge
